US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-bromo-5-cyanophenyl)-1,2,4-oxadiazole (70 mg, 0.21 mmol), 4-pyridylboronic acid (53 mg, 0.43 mmol), and tetrakis(triphenylphosphine) palladium(0) (Pd(PPh3)4, 25 mg, 0.021 mmol) in a solution of ethylene glycol dimethyl ether (3 mL) and 2M sodium carbonate (3 mL) was headed in a sealed vial at 100° C. for 1 hour with vigorous stirring. The reaction was cooled and diluted with chloroform. The organic solution was washed with water and saturated brine, filtered, and concentrated. Silica gel chromatography of the residue using a gradient of 50% ethyl acetate in hexane to 100% ethyl acetate followed by trituration with 5% ethyl acetate in diethyl ether afforded 6 mg (9%) of 3-(2-pyridyl)-5-(3-cyano-5-(4-pyridyl)phenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3): δ-8.88 (d, 1H), 8.78 (m, 3H), 8.64 (s, 1H), 8.26 (d, 1H), 8.15 (s, 1H), 7.93 (t, 1H), 7.61 (m, 2H), 7.52 (m, 1H).

reactant | 3-(2-pyridyl)-5-(3-bromo-5-cyanophenyl)-1,2,4-oxadiazole | 0.21 mmol, 70 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)Br | C14H7BrN4O
reactant | 4-pyridylboronic acid | 0.43 mmol, 53 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.021 mmol, 25 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(2-pyridyl)-5-(3-cyano-5-(4-pyridyl)phenyl)-1,2,4-oxadiazole | 6 mg, 9% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C1=CC=NC=C1)C#N | C19H11N5O
